US07977344B2
6-Amino-2-(butylamino)-9-[3-(2,2-dimethyltetrahydro-2H-Pyran-4-yl)propyl]-7,9-dihydro-8H-purin-8-one
4M HCl in 1,4-dioxane (3 ml, 12.00 mmol) was added in one portion to a stirred solution of N2-butyl-9-[3-(2,2-dimethyltetrahydro-2H-pyran-4-yl)propyl]-8-(methyloxy)-9H-purine-2,6-diamine (40 mg, 0.102 mmol) in methanol (3 ml) at room temperature and the mixture stirred under nitrogen overnight. The mixture was then concentrated and the residue dissolved in MeOH:DCM (1:15 ml) and loaded onto a 2 g aminopropyl SPE cartridge. The cartridge was washed with MeOH:DCM (1:1, 3 column volumes) and the desired fractions were concentrated in vacuo to give material of ca. 80% purity. This material was dissolved in DCM:MeOH (1:1), applied to a 2 g SCX column and eluted firstly with MeOH:DCM (3 column volumes) and the product then released by 2M ammonia in methanol: DCM (1:1, 3 column volumes). The solvent was removed to yield the title compound as a yellow solid (14 mg).

reactant | HCl | 4M | Cl | ClH
reactant | 1,4-dioxane | 12.00 mmol, 3 ml | O1CCOCC1 | C4H8O2
reactant | N2-butyl-9-[3-(2,2-dimethyltetrahydro-2H-pyran-4-yl)propyl]-8-(methyloxy)-9H-purine-2,6-diamine | 0.102 mmol, 40 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCCC1CC(OCC1)(C)C)OC)N | C20H34N6O2
solvent | methanol | 3 ml | CO | CH4O
solvent | DCM MeOH | C(Cl)Cl.CO
product | 6-Amino-2-(butylamino)-9-[3-(2,2-dimethyltetrahydro-2H-Pyran-4-yl)propyl]-7,9-dihydro-8H-purin-8-one | 14 mg | NC1=C2NC(N(C2=NC(=N1)NCCCC)CCCC1CC(OCC1)(C)C)=O | C19H32N6O2
